US05401772
To a solution of 1.7 g (4.5 mmol) of 1-[(4-fluorophenyl)methyl]-2-methoxy-5-(2,6-dimethyl -4-nitrophenoxy)benzene in 100 ml methylene chloride is added 13.5 ml (13.5 mmol) 1.0 N boron tribromide in methylene chloride. The solution is stirred overnight at room temperature, poured into ice water (300 ml) and stirred 1 hour. The organic layer is separated, washed with water, dried (CaSO4) and evaporated. Flash chromatography of the residue gives 2-[(4-fluorophenyl)methyl]-4-(2,6-dimethyl-4-nitrophenoxy)phenol, m.p. 127°-132°.

reactant | 1-[(4-fluorophenyl)methyl]-2-methoxy-5-(2,6-dimethyl -4-nitrophenoxy)benzene | 4.5 mmol, 1.7 g | FC1=CC=C(C=C1)CC1=C(C=CC(=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)OC | C22H20FNO4
reactant | boron tribromide | 13.5 mmol, 1.0 N, 13.5 ml | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-[(4-fluorophenyl)methyl]-4-(2,6-dimethyl-4-nitrophenoxy)phenol | FC1=CC=C(C=C1)CC1=C(C=CC(=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)O | C21H18FNO4
